US05051422
4-(4-Ethoxyphenyl)-N-(2-methoxyethyl)-N-(4-nitrophenyl)-1-(phenylmethyl)-2-piperazinecarboxamide
In a manner similar to Preparation 23, react N-(4-ethoxyphenyl)-N'-(phenylmethyl)-1,2-ethanediamine with 2,3-dibromo-N-(2-methoxyethyl)-N-(4-nitrophenyl)propanamide to obtain the title compound.

reactant | N-(4-ethoxyphenyl)-N'-(phenylmethyl)-1,2-ethanediamine | C(C)OC1=CC=C(C=C1)NCCNCC1=CC=CC=C1 | C17H22N2O
reactant | 2,3-dibromo-N-(2-methoxyethyl)-N-(4-nitrophenyl)propanamide | BrC(C(=O)N(C1=CC=C(C=C1)[N+](=O)[O-])CCOC)CBr | C12H14Br2N2O4
product | 4-(4-Ethoxyphenyl)-N-(2-methoxyethyl)-N-(4-nitrophenyl)-1-(phenylmethyl)-2-piperazinecarboxamide | C(C)OC1=CC=C(C=C1)N1CC(N(CC1)CC1=CC=CC=C1)C(=O)N(C1=CC=C(C=C1)[N+](=O)[O-])CCOC | C29H34N4O5
